US07595312B2
A11b tert-butyl-piperidin-4-yl-amine
1.5 g 10% Pd/C were added to a solution of 13.9 g (56.0 mmol) (1-benzyl-piperidin-4-yl)-tert-butyl-amine in 140 mL MeOH and the reaction mixture was hydrogenated at RT until the theoretical uptake of H2 had been achieved (2 h). After the catalyst had been removed by suction filtering and the solvent was eliminated, the desired product was obtained, which was farther reacted without being purified.

reactant | (1-benzyl-piperidin-4-yl)-tert-butyl-amine | 56.0 mmol, 13.9 g | C(C1=CC=CC=C1)N1CCC(CC1)NC(C)(C)C | C16H26N2
solvent | MeOH | 140 mL | CO | CH4O
catalyst | Pd/C | 1.5 g | [Pd] | Pd
product | tert-butyl-piperidin-4-yl-amine | C(C)(C)(C)NC1CCNCC1 | C9H20N2
